US04744918
0.8 g of 1-methoxy-2-propanol, 3.2 g of p-(p-n-octylphenyl)-benzoic acid chloride 20 ml of toluene and 2.1 ml of pyridine are boiled under reflux for 6 hours. The pyridinium chloride is filtered off hot with suction and the filtrate is worked up in the customary manner. Optically active 1-methoxy-2-[p-(p-n-octylphenyl)-benzoyloxy]-propane is obtained

reactant | 1-methoxy-2-propanol | 0.8 g | COCC(C)O | C4H10O2
reactant | p-(p-n-octylphenyl)-benzoic acid chloride | 20 ml, 3.2 g | C(CCCCCCC)C1=CC=C(C=C1)C1=CC=C(C(=O)Cl)C=C1 | C21H25ClO
reactant | toluene | C1(=CC=CC=C1)C | C7H8
solvent | pyridine | 2.1 ml | N1=CC=CC=C1 | C5H5N
product | 1-methoxy-2-[p-(p-n-octylphenyl)-benzoyloxy]-propane | COCC(C)OC(C1=CC=C(C=C1)C1=CC=C(C=C1)CCCCCCCC)=O | C25H34O3
